US07241791B2
Step 1: 3-(4-methoxyphenyl)-7-trifluoromethyl-1-pentyl-1H-indazole
Prepared according to Method D step B from 3-(4-methoxyphenyl)-7-trifluoromethyl-1H-indazole (0.146 g, 0.5 mmol), sodium hydride (60% in oil, 0.024 g, 0.6 mmol) and 1-iodopentane (0.130 mL, 1.0 mmol) to give the title compound (0.068 g) as a white solid.

reactant | 3-(4-methoxyphenyl)-7-trifluoromethyl-1H-indazole | 0.5 mmol, 0.146 g | COC1=CC=C(C=C1)C1=NNC2=C(C=CC=C12)C(F)(F)F | C15H11F3N2O
reactant | sodium hydride | 0.6 mmol, 0.024 g | [H-].[Na+]
reactant | 1-iodopentane | 1.0 mmol, 0.130 mL | ICCCCC | C5H11I
product | 3-(4-methoxyphenyl)-7-trifluoromethyl-1-pentyl-1H-indazole | 0.068 g | COC1=CC=C(C=C1)C1=NN(C2=C(C=CC=C12)C(F)(F)F)CCCCC | C20H21F3N2O
